US04927926
A mixture of 1.2 g (4.53 mmoles) of 1-cyclopropyl 6,7-difluoro-1,4-dihydro-4oxo-3-quinolinecarboxylic acid, 1.3 g (9.05 mmoles) of 3-aminoazetidine hydrochloride and 0.5 ml of triethylamine heated in 15 ml of pyridine for 2 hours. The mixture is filtrated and washed with water and ethanol to obtain 0.83 g (58%) of 1-cyclopropyl-6-fluoro-7-(3-amino-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid melting at 246°-7° C.

reactant | 1-cyclopropyl 6,7-difluoro-1,4-dihydro-4oxo-3-quinolinecarboxylic acid | 4.53 mmoles, 1.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 3-aminoazetidine hydrochloride | 9.05 mmoles, 1.3 g | Cl.NC1CNC1
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-6-fluoro-7-(3-amino-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.83 g, 58% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(C1)N)F)=O)C(=O)O | C16H16FN3O3
